US04626533
1.0 g. of 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid and 0.24 g. of 5-mercapto-1,2,3,4-thiatriazole were reacted and worked up according to the method of Example 15. Thus 0.73 g. (65%) of 7-(1,2,3,4-thiatriazole-5-ylthio)-acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid were obtained.

reactant | 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | BrCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C17H14BrCl2N3O5S
reactant | 5-mercapto-1,2,3,4-thiatriazole | SC1=NN=NS1 | CHN3S2
product | 7-(1,2,3,4-thiatriazole-5-ylthio)-acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | 65% | S1N=NN=C1SC1[C@@H]2N(C(=C(C(S2)NC(C)=O)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C18H14Cl2N6O5S3
